US08541449B2
a) 5-Cyano-5-(4-fluoro-phenyl)-2-oxo-cyclohexanecarboxylic acid methyl ester (11)
70 mL of methylacrylate and 50 g of 4-fluorophenylacetonitrile were dissolved in a mixture of 200 mL of THF and 50 mL of dry methanol. 150 mL of sodium methylate (30% in methanol) were added dropwise, while temperature was maintained below 40° C. The mixture was stirred at room temperature for 15 h and heated for another 4 h at 50° C. When the reaction was complete, the mixture was allowed to cool to room temperature and poured onto a cold 2N aqueous hydrochloric acid solution. The aqueous layer was extracted three times with ethyl acetate and the combined organic layer was washed with water and brine, dried over magnesium sulphate and evaporated to give 101.5 g of the desired product. Rt=1.59 min (Method 5). Detected mass: 276.2 (M+H+).

reactant | methylacrylate | 70 mL | COC(C=C)=O | C4H6O2
reactant | 4-fluorophenylacetonitrile | 50 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium methylate | 150 mL | C[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 5-Cyano-5-(4-fluoro-phenyl)-2-oxo-cyclohexanecarboxylic acid methyl ester | 101.5 g | COC(=O)C1C(CCC(C1)(C1=CC=C(C=C1)F)C#N)=O | C15H14FNO3
